US08426447B2
A microwave vial was charged with (rac)-2′-Chloro-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2-amine (prepared in a manner similar to Example 39; 90 mg, 247 μmol), Pd2dba3 (11 mg, 12 μmol), X-Phos (12 mg, 25 μmol), (E)-3,3-dimethylbut-1-enylboronic acid (63 mg, 493 μmol) and potassium phosphate (157 mg, 740 μmol). THF (2 mL) was added and the mixture was heated at 120° C. in microwave reactor for 2 hrs. The mixture was diluted with ethyl acetate and filtered through plug of Celite. After removal of the solvents the residue was purified by flash chromatography on silica gel (12 g Redi-Sep column, 20-100% DCM/MeOH/NH4OH 90:10:1 in DCM) to give 2′-(3,3-dimethylbut-1-enyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (65 mg, 64% yield). This product was hydrogenated at 1 atm of H2 in MeOH/EtOAc mixture using 10% palladium on carbon (53 mg, 49 μmol) for 60 hrs. The reaction mixture was filtered and concentrated in vacuo and was further purified by reverse-phase HPLC (10-90% CH3CN/H2O with 0.1% TFA). The fractions containing product were combined and dried overnight under high vacuum to give 2′-(3,3-dimethylbutyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as its TFA salt.

reactant | (rac)-2′-Chloro-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2-amine | ClC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N | C19H13ClN4O2
reactant | X-Phos | 25 μmol, 12 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | (E)-3,3-dimethylbut-1-enylboronic acid | 493 μmol, 63 mg | CC(/C=C/B(O)O)(C)C | C6H13BO2
reactant | potassium phosphate | 740 μmol, 157 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2dba3 | 12 μmol, 11 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2′-(3,3-dimethylbut-1-enyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 65 mg, 64% yield | CC(C=CC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N)(C)C | C25H24N4O2
